US08183281B2
a.) N,N-Diethyl-2-hydroxy-3-nitro-benzamide
1.19 ml of DIPEA are added to a stirring dispersion of 0.5 g 3-nitrosalicyclic acid and 1.14 g of HATU in 4 ml of DMF at rt under an inert atmosphere of nitrogen. After stirring at it for 1 minute, 0.31 ml of diethylamine in 1 ml of dry DMF are added. After stirring at it for 1 hour, a reaction mixture obtained is added to 50 ml of 1M HCl and extracted with 50 ml EtOAc. Solvent is evaporated and a residue obtained is purified by chromatography on silca eluting with 2:1 iso-hexane/EtOAc. The title compound is obtained. MH+ 239.

reactant | DIPEA | 1.19 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-nitrosalicyclic acid | 0.5 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)O | C7H5NO5
reactant | HATU | 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diethylamine | 0.31 ml | C(C)NCC | C4H11N
reactant | HCl | 1M, 50 ml | Cl | ClH
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N,N-Diethyl-2-hydroxy-3-nitro-benzamide | C(C)N(C(C1=C(C(=CC=C1)[N+](=O)[O-])O)=O)CC | C11H14N2O4
